* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1195.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R2 N001 -V 10K
V3 IN 0 PWL(0 0 20n 1 150n 1 170n 0)
X§U1 N003 N001 +V -V N002 NC_01 LT1195
D1 N002 N001 5082-2800
R3 IN 0 50
R4 N003 IN 1K
C1 N003 0 60p
D2 N002 OUT 5082-2800
R1 -V OUT 10K
C2 OUT 0 1000p
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 3u
.model 5082-2800 D(BV=75 Cjo=1.6p Eg=0.69 IBV=10E-5 Is=2.2E-9 N=1.08 Rs=25 Vj=.6 XTI=2 M=.5)
* Fast Pulse Detector
.lib LTC.lib
.backanno
.end
